US07371763B2
4-(2-Pyridinylthio)aniline:
4-(3-Thienylthio)-1-nitrobenzene: To a solution of 4-nitrothiophenol (80% pure; 1.2 g, 6.1 mmol), 3-bromothiophene (1.0 g, 6.1 mmol) and copper(II) oxide (0.5 g, 3.7 mmol) in anhydrous DMF (20 mL) was added KOH (0.3 g, 6.1 mmol), and the resulting mixture was heated at 130° C. with stirring for 42 h and then allowed to cool to room temp. The reaction mixture was then poured into a mixture of ice and a 6N HCl solution (200 mL) and the resulting aqueous mixture was extracted with EtOAc (3×100 mL). The combined organic layers were sequentially washed with a 1M NaOH solution (2×100 mL) and a saturated NaCl solution (2×100 mL), dried (MgSO4), and concentrated in vacuo. The residual oil was purified by MPLC (silica gel; gradient from 10% EtOAc/90% hexane to 5% EtOAc/95% hexane) to afford of the desired product (0.5 g, 34%). GC-MS m/z 237 (M+).

reactant | 4-(3-Thienylthio)-1-nitrobenzene | S1C=C(C=C1)SC1=CC=C(C=C1)[N+](=O)[O-] | C10H7NO2S2
reactant | 4-nitrothiophenol | 6.1 mmol, 1.2 g | [N+](=O)([O-])C1=CC=C(C=C1)S | C6H5NO2S
reactant | 3-bromothiophene | 6.1 mmol, 1.0 g | BrC1=CSC=C1 | C4H3BrS
reactant | KOH | 6.1 mmol, 0.3 g | [OH-].[K+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
catalyst | copper(II) oxide | 3.7 mmol, 0.5 g | [Cu]=O
product | 4-(2-Pyridinylthio)aniline | 0.5 g, 34% | N1=C(C=CC=C1)SC1=CC=C(N)C=C1 | C11H10N2S
